US04053601
Methyl 3-(2-hydroxy-4-methylbenzoyl)propionate was reacted wtih epibromohydrin in a similar manner to the procedure described in Example 1 (ii) to give methyl 3-[2-(2,3-epoxypropoxy)-4-methylbenzoyl]propionate, m.p. 61.5°-63°.

reactant | Methyl 3-(2-hydroxy-4-methylbenzoyl)propionate | OC1=C(C(=O)CCC(=O)OC)C=CC(=C1)C | C12H14O4
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
product | methyl 3-[2-(2,3-epoxypropoxy)-4-methylbenzoyl]propionate | O1C(COC2=C(C(=O)CCC(=O)OC)C=CC(=C2)C)C1 | C15H18O5
